US08067408B2
A mixture of 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (1000 mg, 2.05 mmol), [(3-bromo-5-methylphenyl)methyl]amine (605 mg, 2.25 mmol), HBTU (932 mg, 2.45 mmol) and Et3N (0.57 mL, 4.10 mmol) in DCM was stirred at room temperature overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were then washed with water followed by a brine wash. The organic layer was then concentrated under vacuum to give a crude residue. It was then purified with CombiFlash chromatography, eluting with 0 to 10% methanol in DCM to obtain N-[(3-bromo-5-methylphenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide as an oil (652 mg, 50%). LC-MS m/z 634 (M+H)+.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 2.05 mmol, 1000 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | [(3-bromo-5-methylphenyl)methyl]amine | 2.25 mmol, 605 mg | BrC=1C=C(C=C(C1)C)CN | C8H10BrN
reactant | HBTU | 2.45 mmol, 932 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 4.10 mmol, 0.57 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-5-methylphenyl)methyl]-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 652 mg, 50% | BrC=1C=C(C=C(C1)C)CN(C(=O)C1=CC(=CC=C1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O3
